* C:\Users\Nick\Documents\git\personal\Nixie-Clock\Hardware\v2 - RP2040\HV switching simulation\HV_switching.asc
V1 N002 0 170V
R1 vout 0 {R_LOAD}
V2 N007 0 PULSE(0 3.3 0 1e-6 1e-6 0.5m 1m)
Q3 N001 N008 0 0 MPSA42
R2 N002 N001 2.2k
M1 vout N001 N002 N002 IRF9640
R3 N008 N007 100k
Q1 N010 N014 0 0 MPSA42
R4 N014 N016 10k
R5 0 N016 10k
R6 N010 N009 200k
Q2 N004 N009 N003 0 MPSA92
R7 N009 N003 100k
V3 N003 0 170V
R8 N004 0 {R_LOAD}
V4 N016 0 PULSE(0 3.3 0 1e-6 1e-6 0.5m 1m)
V5 N011 0 PULSE(0 3.3 0 1e-6 1e-6 0.5m 1m)
Q4 N005 N012 N015 0 MPSA42
R9 N012 N011 200k
R10 N015 0 56
R11 N006 N005 330
Q5 N013 N005 N006 0 MPSA92
R12 N013 0 {R_LOAD}
V6 N006 0 170V
R13 N011 0 10k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Nick\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Nick\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.MODEL MPSA42 NPN( BF=7.04E+01 BR=1.76E+01 CJC=1.56E-11 CJE=1.31E-10 FC=5.00E-01 IKF=1.00E+01 IKR=1 IRB=1.30E-03 IS=1.59E-13 ISC=9.06E-11 ISE=3.62E-16 ITF=1.33 MJC=5.80E-01 MJE=4.02E-01 NC=1.47 NE=1.21E+00 NF=1.03E+00 NR=1.11 RB=3.23E+01 RBM=7.75E-02 RC=4.11E-01 RE=4.19E-01 TF=1.73n VAF=4.51E+01 VAR=9.11E+01 VJC=4.64E-01 VJE=3.00E-01 VTF=9.99E+05 XTB=0 XTF=1.00E+02 XTI=3)
.MODEL MPSA92 PNP(IS=9.53E-14 ISE=8.37E-13 ISC=9.99E-11 XTI=3.00 BF=9.80E1 BR=4.78 IKF=3.49E-2 IKR=1.00 XTB=1.5 VAF=2.60E2 VAR=1.40E2 VJE=3.00E-1 VJC=3.00E-1 RE=1.00E-2 RC=1.00E-2 RB=2.76E1 RBM=6.66E-2 IRB=7.02E-4 CJE=9.54E-11 CJC=4.66E-11 .00 FC=5.00E-1 NF=1.00 NR=1.55 NE=1.49 NC=1.50 MJE=4.26E-1 MJC=7.00E-1 TF=9.52E-10 TR=516.9p ITF=4.12E-1 VTF=9.99E5 XTF=1.03 EG=1.11 VCEO=300 ICRATING=500m MFG=SIEMENS)
.tran 4m
* * Figure out good diode for nixie inductance\n* Figure out suitable smd mosfet
.param R_LOAD=6k
* v1 circuit
* new 1
.backanno
.end
